US08871797B2
To a suspension of N-[4-methoxy-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-acetamide (2.57 g, 10.48 mmol) in 1,2-dichloroethane (75 mL) was added BBr3 (10 mL, 106 mmol) and stirred for three hours. The nonhomogeneous suspension was heated to reflux for 15 minutes and then cooled to room temperature. The reaction was quenched by slow addition of methanol. The resulting material was purified by HPLC. The product was dried in vacuo to afford N-[4-hydroxy-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-acetamide as a white solid (508 mg, 21%). LCMS (%)=232 (M+H, 100), 1H NMR (400 MHz, DMSO-d6) δ: 9.77 (bs, 1H), 9.66 (bs, 1H), 7.44-7.40 (m, 3H), 6.89 (d, J=8.85 Hz, 1H), 6.37 (d, J=1.81 Hz, 1H), 3.66 (s, 3H), 1.99 (s, 3H).

reactant | N-[4-methoxy-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-acetamide | 10.48 mmol, 2.57 g | COC1=C(C=C(C=C1)NC(C)=O)C=1N(N=CC1)C | C13H15N3O2
reactant | BBr3 | 106 mmol, 10 mL | B(Br)(Br)Br | BBr3
solvent | 1,2-dichloroethane | 75 mL | ClCCCl | C2H4Cl2
product | N-[4-hydroxy-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-acetamide | 508 mg, 21% | OC1=C(C=C(C=C1)NC(C)=O)C=1N(N=CC1)C | C12H13N3O2
